US08076502B2
5.53 g of lithium hydroxide hydrate was added to 22.9 g of (1R, 2R, 3R, 5R, 6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester dissolved in 480 mL of tetrahydrofuran and 240 mL of water, and the mixture was stirred for three days at room temperature. 443 mg of lithium hydroxide hydrate was further added thereto, and the mixture was stirred for 1 day at room temperature. 169 mL of 1N hydrochloric acid was added dropwise thererto at ice-cooling, and the mixture was stirred for 14 hours at room temperature. The precipitated solids were filtered, and then washed with 200 mL of tetrahydrofuran and 100 mL of water, thereby yielding 12.3 g of (1R, 2R, 3R, 5R, 6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid.

reactant | lithium hydroxide hydrate | 5.53 g | O.[OH-].[Li+]
reactant | (1R, 2R, 3R, 5R, 6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 22.9 g | C(C)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@H]1OCC1=CC(=C(C=C1)Cl)Cl)(C(=O)OCC)F)N | C19H22Cl2FNO5
reactant | lithium hydroxide hydrate | 443 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N, 169 mL | Cl | ClH
solvent | tetrahydrofuran | 480 mL | O1CCCC1 | C4H8O
solvent | water | 240 mL | O | H2O
product | (1R, 2R, 3R, 5R, 6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid | 12.3 g | N[C@@]1([C@@H]2[C@]([C@@H]2C[C@H]1OCC1=CC(=C(C=C1)Cl)Cl)(C(=O)O)F)C(=O)O | C15H14Cl2FNO5
